US06316436B1
Preparation of 4-bromo-3-fluorobenzyl Alcohol
4-Bromo-3-fluorobenzoic acid, as described above, (40.8 g, 0.187 mol) was dissolved in THF (250 ml) with magnetic stirring under Ar in an ice-H2O bath. The cloudy solution was treated dropwise with borane-THF complex (1 M) (374 mL, 0.374 mol) over a 1 h period maintaining the internal temperature at <10° C. The reaction mixture was left to warm to ambient temperature overnight, then cooled in an ice-H2O bath and treated dropwise with H2O (150 mL). The THF was removed on a rotary evaporator, and the residue partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×100 mL), the organic layers combined, washed with brine, and dried (Na2SO4), filtered, and concentrated to give the title compound as an oil which solidified on standing.

reactant | 4-Bromo-3-fluorobenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | H2O | 150 mL | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-bromo-3-fluorobenzyl Alcohol | BrC1=C(C=C(CO)C=C1)F | C7H6BrFO
